US07253165B2
Synthesis of (2,4-difluoro-phenyl)-(3-methoxy-phenyl)-methanol (Scheme I, Compound 5)
Add n-butyl lithium solution (2.5 M, 140 mL, 350 mmol) to 3-bromoanisole (44.6 mL, 352.2 mmol) in cold (−78° C.) tetrahydrofuran (anhydrous, 500 mL), dropwise. Let stir for 10 minutes and add 2,4 difluorobenzaldehyde (50 g, 351 mmol), dropwise, and stir for an additional 1 hour. After 1 hour the reaction is complete. Quench the reaction mixture with cold water, extract with ethyl acetate, dry (MgSO4), and concentrate to give the crude, title compound (Compound 7) (90.21 g, >100% Yield). Use compound in a crude form or purify by column chromatography (20% ethyl acetate in heptane). NMR agrees with the final, desired compound.

reactant | n-butyl lithium | 350 mmol, 2.5 M, 140 mL | C(CCC)[Li]
reactant | 3-bromoanisole | 352.2 mmol, 44.6 mL | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | 2,4 difluorobenzaldehyde | 351 mmol, 50 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | (2,4-difluoro-phenyl)-(3-methoxy-phenyl)-methanol | 90.21 g, >100% Yield | FC1=C(C=CC(=C1)F)C(O)C1=CC(=CC=C1)OC | C14H12F2O2
